US04304770
2-Ethoxyimino-2-(2-formamidothiazol-4-yl)acetic acid (syn isomer) (3.0 g.) and dry ethyl acetate (40 ml.) were added at 0° to 5° C. with stirring to a suspension of Vilsmeier reagent prepared from dry dimethylformamide (1.0 g.) and phosphorus oxychloride (2.1 g.) in dry ethyl acetate (4.0 ml.) by conventional method, and the resulting mixture was stirred for 30 minutes at the same temperature. The solution was added at -10° C. with stirring to a solution of 7-amino-3-(1,3,4-thiadiazol-2-yl)thiomethyl-3-cephem-4-carboxylic acid (3.7 g.), trimethylsilylacetamide (10.3 g.) and bis-(trimethylsilyl)acetamide (6.8 g.) in dry ethyl acetate (80 ml.), and the mixture was stirred for 1.5 hours at the same temperature. After addition of water (50 ml.) to the reaction mixture, an insoluble material was filtered off, the ethyl acetate layer in the filtrate was separated and extracted with an aqueous solution of sodium bicarbonate (50 ml.). The aqueuous extract was washed with ethyl acetate and acidified to pH 2.0 with conc. hydrochloric acid. Precipitates were collected by filtration, washed with water and dried to give powder of 7-[2-ethoxyimino-2-(2-formamidothiazol-4-yl)acetamido]-3-(1,3,4-thiadiazol-2-yl)thiomethyl-3-cephem-4-carboxylic acid (syn isomer) (2.3 g.).

reactant | 2-Ethoxyimino-2-(2-formamidothiazol-4-yl)acetic acid | 3.0 g | C(C)ON=C(C(=O)O)C=1N=C(SC1)NC=O | C8H9N3O4S
reactant | Vilsmeier reagent | C[N+](=CCl)C.[Cl-]
reactant | phosphorus oxychloride | 2.1 g | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | 7-amino-3-(1,3,4-thiadiazol-2-yl)thiomethyl-3-cephem-4-carboxylic acid | 3.7 g | NC1[C@@H]2N(C(=C(CS2)CSC=2SC=NN2)C(=O)O)C1=O | C10H10N4O3S3
reactant | trimethylsilylacetamide | 10.3 g | C[Si](C)(C)CC(=O)N | C5H13NOSi
reactant | bis-(trimethylsilyl)acetamide | 6.8 g | C[Si](C)(C)C(C(=O)N)[Si](C)(C)C | C8H21NOSi2
solvent | ethyl acetate | 4.0 ml | C(C)(=O)OCC | C4H8O2
solvent | ethyl acetate | 80 ml | C(C)(=O)OCC | C4H8O2
solvent | ethyl acetate | 40 ml | C(C)(=O)OCC | C4H8O2
solvent | water | 50 ml | O | H2O
solvent | dimethylformamide | 1.0 g | CN(C=O)C | C3H7NO
product | 7-[2-ethoxyimino-2-(2-formamidothiazol-4-yl)acetamido]-3-(1,3,4-thiadiazol-2-yl)thiomethyl-3-cephem-4-carboxylic acid | 2.3 g | C(C)ON=C(C(=O)NC1[C@@H]2N(C(=C(CS2)CSC=2SC=NN2)C(=O)O)C1=O)C=1N=C(SC1)NC=O | C18H17N7O6S4
